US07223776B2
11.a) 4-Amino-1-[2-(6-methoxy-quinazolin-4-yl)-ethyl]-cyclohexanol
Ammonium acetate (14 g, 44 mmol) and sodium triacetoxyborohydride (1.2 g, 5 mmol) were added to a solution of 4-hydroxy-4-[2-(6-methoxy-quinazolin-4-yl)-ethyl]-cyclohexanone (1.25 g, 4.2 mmol) in methanol (50 ml). The reaction mixture was stirred overnight and concentrated to dryness by rotary evaporation. The residue was diluted with water (100 ml) and dichloromethane (100 ml), the phases were separated and the aqueous phase was extracted twice using 50 ml of dichloromethane each time. The combined organic phases were dried over Na2SO4, filtered and concentrated to dryness by rotary evaporation.

reactant | Ammonium acetate | 44 mmol, 14 g | C(C)(=O)[O-].[NH4+]
reactant | sodium triacetoxyborohydride | 5 mmol, 1.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-hydroxy-4-[2-(6-methoxy-quinazolin-4-yl)-ethyl]-cyclohexanone | 4.2 mmol, 1.25 g | OC1(CCC(CC1)=O)CCC1=NC=NC2=CC=C(C=C12)OC | C17H20N2O3
solvent | methanol | 50 ml | CO | CH4O
product | 4-Amino-1-[2-(6-methoxy-quinazolin-4-yl)-ethyl]-cyclohexanol | NC1CCC(CC1)(O)CCC1=NC=NC2=CC=C(C=C12)OC | C17H23N3O2
